US05919785
Step F: Preparation of methyl 2-[(3-chlorophenyl)amino]acetate
To a solution of 3-chloroaniline and potassium carbonate (3 equiv.) in DMF is added methylbromoacetate (1.1 equiv.), and the reaction is stirred at 60° C. After complete reaction, the solution is poured into EtOAc and washed with water, sat. aq. NaHCO3 soln., and brine. The solution is dried (Na2SO4), filtered, and concentrated in vacuo. The resulting material is purified by silica gel chromatography to provide the titled compound.

reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | potassium carbonate | 3 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | methylbromoacetate | 1.1 equiv. | COC(CBr)=O | C3H5BrO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 2-[(3-chlorophenyl)amino]acetate | ClC=1C=C(C=CC1)NCC(=O)OC | C9H10ClNO2
